US06562807B2
4-Formylbenzoic acid methyl ester (6.65 g, 40.5 mmol) was dissolved in hot methanol (175 mL). To this mixture, 4-cyclohexylaniline (7.1 g, 40.5 mmol) was added. To the resulting suspension, more methanol (75 mL) was added and the mixture was heated at reflux for 1 hour. After cooling to 0° C., the mixture was filtered and the solid was washed with ice-cold methanol and dried in vacuo at 40° C. for 16 hours to afford 10.95 g of 4-[(4-cyclohexylphenylimino)-methyl]benzoic acid methyl ester. This compound (10.93 g, 34 mmol) was suspended in methanol (200 mL) and glacial acetic acid (27 mL) was added followed by sodium cyano borohydride (1.9 g, 30 mmol) in small portions. The mixture was stirred at room temperature for 1 hour and concentrated in vacuo. The residue was dissolved in DCM (200 mL) and washed with 5% aqueous sodium carbonate (5×80 mL), dried (magnesium sulphate) and concentrated in vacuo. The residue was added ethyl acetate (100 mL) and n-heptane (200 mL) and concentrated in vacuo to half the original volume. The solid was filtered, washed with n-heptane and dried in vacuo at 40° C. for 16 hours to afford 9.52 g (87%) of 4-((4-cyclo-hexylphenylamino)methyl)benzoic acid methyl ester.

reactant | 4-Formylbenzoic acid methyl ester | 40.5 mmol, 6.65 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | 4-cyclohexylaniline | 40.5 mmol, 7.1 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
solvent | methanol | 175 mL | CO | CH4O
solvent | methanol | 75 mL | CO | CH4O
product | 4-[(4-cyclohexylphenylimino)-methyl]benzoic acid methyl ester | 10.95 g | COC(C1=CC=C(C=C1)C=NC1=CC=C(C=C1)C1CCCCC1)=O | C21H23NO2
